US07618975B2
(2-Chloro-quinazolin-4-yl)-(4-trifluoromethoxy-phenyl)-methyl-amine
The title compound was prepared from 2,4-dichloroquinazoline (50 mg, 0.251 mmol) and 4-trifluoromethoxy-N-methylaniline (20 μL, 0.302 mmol) by a procedure similar to example 1b and was isolated as white powder (22 mg, 44%). 1H NMR (CDCl3): 7.93 (dd, J=8.4, and 0.6 Hz, 1H), 7.61 (ddd, J=8.4, 4.5 and 1.2 Hz, 1H), 7.29-7.22 (m, 4H), 7.06 (ddd, J=8.4, 4.5 and 1.2 Hz, 1H), 6.91 (d, J=8.7 Hz, 1H), 3.65 (s, 3H).

reactant | 2,4-dichloroquinazoline | 0.251 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-trifluoromethoxy-N-methylaniline | 0.302 mmol, 20 μL | FC(OC1=CC=C(NC)C=C1)(F)F | C8H8F3NO
product | (2-Chloro-quinazolin-4-yl)-(4-trifluoromethoxy-phenyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC(F)(F)F | C16H11ClF3N3O
